US05459272
3-(2-Furoyl)-2-methylquinoline:
A solution of 410 mg (1.95 mmol) N-(p-tolyl)-o-aminobenzaldehyde 326 mg (2.15 mmol), (2-furoyl)acetone and 50 mg piperidine in 4 ml 95% ethanol was heated overnight under reflux. Removal of he volatile materials left a black, gummy oil which was taken up in dichloromethane and, after being washed with 3M NaOH, brine, and dried (MgSO4), purified by flash chromatography [eluent, 3:2 pentane-diethyl ether (3:2)] yielding 355 mg (1.50 mmol, 77%) product.

reactant | N-(p-tolyl)-o-aminobenzaldehyde | 1.95 mmol, 410 mg | C1(=CC=C(C=C1)NC1=C(C=O)C=CC=C1)C | C14H13NO
reactant | (2-furoyl)acetone | O1C(=CC=C1)C(=O)CC(C)=O | C8H8O3
reactant | piperidine | 50 mg | N1CCCCC1 | C5H11N
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3-(2-Furoyl)-2-methylquinoline | 1.50 mmol, 355 mg, 77% | O1C(=CC=C1)C(=O)C=1C(=NC2=CC=CC=C2C1)C | C15H11NO2
